US08071592B2
(d) 6-{[({(3S)-1-[2-(7-fluoro-2-oxo-1(2H)-quinolinyl)ethyl]-3-pyrrolidinyl}methyl)amino]methyl}-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one
To a solution of 1-{2-[(3S)-3-(aminomethyl)-1-pyrrolidinyl]ethyl}-7-fluoro-2(1H)-quinolinone (87 mg, 0.30 mmol) and 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde (for a synthesis see WO2003087098, Example 31(e)) (54 mg, 0.302 mmol) was added Na2SO4 (355 mg, 2.50 mmol) and the reaction was stirred at ambient temperature for 18 h. The intermediate imine was treated with sodium triacetoxyborohydride (160 mg, 0.75 mmol) and stirred for an additional 16 h). The solvents were removed under reduced pressure; the residue was partitioned between dichloromethane and aqueous sodium bicarbonate, and the organic layer was dried (Na2SO4). Purification by column chromatography on silica gel, (1% to 20% methanol:dichloromethane gradient) yielded the title compound as an amorphous off-white solid (69 mg, 51%).

reactant | 1-{2-[(3S)-3-(aminomethyl)-1-pyrrolidinyl]ethyl}-7-fluoro-2(1H)-quinolinone | 0.30 mmol, 87 mg | NC[C@H]1CN(CC1)CCN1C(C=CC2=CC=C(C=C12)F)=O | C16H20FN3O
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde | O=C1NC2=C(OC1)C=CC(=N2)C=O | C8H6N2O3
reactant | Na2SO4 | 2.50 mmol, 355 mg | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | sodium triacetoxyborohydride | 0.75 mmol, 160 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 6-{[({(3S)-1-[2-(7-fluoro-2-oxo-1(2H)-quinolinyl)ethyl]-3-pyrrolidinyl}methyl)amino]methyl}-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one | 69 mg, 51% | FC1=CC=C2C=CC(N(C2=C1)CCN1C[C@@H](CC1)CNCC=1C=CC=2OCC(NC2N1)=O)=O | C24H26FN5O3
